US05688798
0.23 g (0.00077 mol) of 5-(4-p-tolyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine was dissolved in 220 ml of hot methanol. The solution was treated at room temperature with 0.44 ml (0.00154 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and the residue was recrystallized from ethanol/diethyl ether. 0.22 g (77%) of 5-(4-p-tolyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine dihydrochloride was obtained as whited crystals; m.p. 220°-222°.

reactant | 5-(4-p-tolyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine | 0.00077 mol, 0.23 g | C1(=CC=C(C=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N)C | C16H22N6
reactant | hydrochloric acid | 0.00154 mol, 3.5N, 0.44 ml | Cl | ClH
solvent | methanol | 220 ml | CO | CH4O
product | 5-(4-p-tolyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine dihydrochloride | 0.22 g, 77% | Cl.Cl.C1(=CC=C(C=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N)C | InChI=1S/C16H22N6.2ClH/c1-12-2-4-14(5-3-12)22-8-6-21(7-9-22)11-13-10-19-16(18)20-15(13)17;;/h2-5,10H,6-9,11H2,1H3,(H4,17,18,19,20);2*1H
